US04971959
To a solution of 9.6 g (56.5 mmol) of 3-hydroxy-4-nitrobenzyl alcohol in 960 mL of dry N,N-dimethylformamide under a nitrogen atmosphere was added 11.7 g (83.6 mmol) of anhydrous potassium carbonate followed by 18.1 mL (169.0 mmol) of cyclopentyl bromide. The reaction mixture was warmed to 50° C. for 24 hours after which time the mixture was cooled to room temperature and concentrated to a dark brown residue under high vacuum. The residue was dissolved in 500 mL of chloroform, washed with two, 50 mL portions of saturated sodium chloride, dried over magnesium sulfate, and concentrated to dryness. Purification of the crude product with liquid chromatography over 200 g of silica gel and eluting with 10% methanol in chloroform provided the analytically pure 3-cyclopentoxy-4-nitrobenzyl alcohol upon drying in vacuo.

reactant | 3-hydroxy-4-nitrobenzyl alcohol | 56.5 mmol, 9.6 g | OC=1C=C(CO)C=CC1[N+](=O)[O-] | C7H7NO4
reactant | potassium carbonate | 83.6 mmol, 11.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopentyl bromide | 169.0 mmol, 18.1 mL | C1(CCCC1)Br | C5H9Br
solvent | N,N-dimethylformamide | 960 mL | CN(C=O)C | C3H7NO
product | 3-cyclopentoxy-4-nitrobenzyl alcohol | C1(CCCC1)OC=1C=C(CO)C=CC1[N+](=O)[O-] | C12H15NO4
